US07547691B2
(C). Preparation of [2-(2-chloropyrimidin-4-yl)-benzo[b]thiophen-6-ylmethyl]-carbamic acid tert-butyl ester
Benzo[b]thiophen-6-ylmethyl-carbamic acid tert-butyl ester (3.6 g, 13.8 mmol) is dissolved in THF (100 mL) and cooled to −78° C. Triisopropylborate (8.5 mL) is added, followed by lithium diisopropylamine solution (27 mL of 2.0 M solution), and the reaction is allowed to slowly warm to room temperature over two hours. The reaction is stirred at room temperature for two hours at which time 2,4-dichloropyrimidine (4.59 g, 30.8 mmol), 1,1′-bis(diphenylphosphino)ferrocene (388 mg, 0.700 mmol), palladium (II) acetate (164 mg, 0.730 mmol) and sodium carbonate (28 mL of 2.0 N solution) are added. The reaction is heated for 20 hours at 70° C. After the reaction solution is cooled to 25° C., water (100 mL) is added. The mixture is extracted with dichloromethane and the extracts are evaporated. The resulting solid is subjected to chromatography on silica gel, eluting with EtOAc/hexanes 5-50%, to give the title compound (1.47 g, 28% yield). ES+(m/z) 376 (35Cl) and 378 (37Cl) [M+H].

reactant | Benzo[b]thiophen-6-ylmethyl-carbamic acid tert-butyl ester | 13.8 mmol, 3.6 g | C(C)(C)(C)OC(NCC=1C=CC2=C(SC=C2)C1)=O | C14H17NO2S
reactant | Triisopropylborate | 8.5 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | lithium diisopropylamine | 2.0 M, 27 mL | C(C)(C)NC(C)C.[Li]
reactant | 2,4-dichloropyrimidine | 30.8 mmol, 4.59 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | sodium carbonate | 2.0 N, 28 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.700 mmol, 388 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium (II) acetate | 0.730 mmol, 164 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 100 mL | O | H2O
product | [2-(2-chloropyrimidin-4-yl)-benzo[b]thiophen-6-ylmethyl]-carbamic acid tert-butyl ester | 1.47 g, 28% yield | C(C)(C)(C)OC(NCC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2)Cl)C1)=O | C18H18ClN3O2S
